US04507297
Tert-butoxycarbonyl-L-leucine monohydrate (8.92 g) and 1-benzylpiperazine (6.30 g) were condensed in the same manner as in the preparation of tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methyl butylcarbamate to yield 8.06 g of tert-butyl (s)-1-(4-benzylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate as a colorless amorphous substance (yield: 58%).

reactant | Tert-butoxycarbonyl-L-leucine monohydrate | 8.92 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | 1-benzylpiperazine | 6.30 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | tert-butyl (s)-1-(4-benzylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate | 8.06 g, yield: 58% | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(OC(C)(C)C)=O | C22H35N3O3
